Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Latex Exam Gloves / Hydrochlorothiazide / Sulfonamides / Iodine 
/ Penicillins / Clindamycin
 
Attending: ___.
 
Chief Complaint:
Left lower extremity pain and erythema
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o female with ETOH cirrhosis who presented to OSH with 24 
hours of left lower extremity pain and erythema with fever and 
chills at home. She also c/o nausea. No history of trauma to 
leg. No cough or dyspnea, notes some loose stool, no melena, no 
abdominal apin. Had temp of 102.5 at ___, given 
Vanco, Levaquin and transferred.
 
Past Medical History:
-EtOH cirrhosis c/b ascites/enceph, grade I-II esoph varices, 
awaiting liver transplant  
-HSV 1 infections of esophagus and mouth  
-Left lower extremity cellulitis requiring IV Abx (___)  

-Chronic bronchitis s/p Abx  
-Osteoarthritis  
-Status post cervical neck surgery  
-Status post cholecystectomy  
-Status post right rotator cuff surgery  
-s/p Total abdominal hysterectomy with salpingo-oophorectomy   
-Bullous pemphigoid  
-Lipodermatosclerosis  
-Hx c. difficile colitis.  
-Hx eczema  

 
Social History:
___
Family History:
n/c
 
Physical Exam:
VS: 100.3, 88, 110/70, 18, 100%2L
Gen: NAD, A+Ox3, altered affect
No rash
HEENT: no LAD,
Card: RRR, no bruit
Lung: CTA bilaterally
Abd: Soft, non-tender, no bruit, no rebound or guarding
LLE: 2+ edema, erthematous and warm, no crepitus, no drainage, 
positive for skin changes, 2 small openings
Extr: 2+ DPs
 
Pertinent Results:
On Admission: ___
WBC-9.3# RBC-3.81* Hgb-11.0* Hct-33.3* MCV-87 MCH-28.9 MCHC-33.0 
RDW-17.3* Plt Ct-79* Neuts-77* Bands-11* Lymphs-8* Monos-4 Eos-0 
Baso-0 ___ Myelos-0
___ PTT-35.0 ___
CK(CPK)-30
___ WBC-4.2 RBC-3.33* Hgb-9.7* Hct-29.4* MCV-88 MCH-29.2 
MCHC-33.1 RDW-17.8* Plt Ct-81*
 
Brief Hospital Course:
___ y/o female on ___ liver transplant waiting list for ETOH 
cirrhosis who presents with 1 day history of cellulitic changes 
to left lower leg. Was trasnferred here from OSH.
She was started on Vancomycin, Levaquin, Flagyl and received 5 
day course of IV antibiotics.
Erythema slowly resolved as did swelling. Pain was reduced by 
time of discharge.
She will continue and complete a 14 day course of PO Levaquin.
She remained afebrile.
___ has been arranged to continue watching leg at home.
 
Medications on Admission:
Clobetasol cream BID, Compazine 5mg daily, Lactulose 15 cc PO 
daily, Lasix 20 daily, Lysine 1 cap BID, Minocycline 100 mg BID, 
Multivit daily, Nadalol 20 mg BID, Protonix 40 mg daily, 
Rifaxamin 200 mg TID, Spironolactone 100 mg daily, Valtrex 1gm 
daily, Zoloft 150 mg daily
 
Discharge Medications:
1. Lactulose 10 gram/15 mL Syrup Sig: Fifteen (15) ML PO DAILY 
(Daily).  
2. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).  
3. Sertraline 50 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
4. Rifaximin 200 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
5. Nadolol 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
6. Spironolactone 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Valacyclovir 500 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
8. Levaquin 500 mg Tablet Sig: One (1) Tablet PO once a day for 
10 days.
Disp:*10 Tablet(s)* Refills:*0*
9. Minocycline 100 mg Tablet Sig: One (1) Tablet PO twice a day. 
 
10. Lysine 500 mg Tablet Sig: One (1) Tablet PO twice a day.  
11. Multivitamin     Tablet Sig: One (1) Tablet PO once a day.  
12. Lasix 20 mg Tablet Sig: One (1) Tablet PO once a day.  
13. Compazine 5 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Cellulitis Left leg

 
Discharge Condition:
Fair/Stable

 
Discharge Instructions:
Please call the transplant office at ___ for increased 
redness, swelling or pain in the left leg.
Keep leg elevated at all time when sitting or lying down. You 
can place pillows under your calf.
Complete antibiotics as directed
Call the transplant office for fever > 101, chills, nausea, 
vomiting, diarrhea, inability to take or keep down food or 
medications.
Continue all medications you had been taking at home
Labwork and appointments as scheduled with the transplant clinic
You may need follow up with vascular service to evaluate 
circulation in your legs
 
Followup Instructions:
___